US04199595
Preparation of 3-Methyl-2-[p-(1,1,2,2-tetrafluoroethoxy)phenyl]butyryl chloride
A stirred mixture of 20.00 g (0.0680 mol) of 3-methyl-2-[p-(1,1,2,2-tetrafluoroethoxy)phenyl]butyric acid, 20.00 ml (33.2 g, 0.280 mol) of thionyl chloride (Baker), and 75 ml of dried benzene is refluxed for 4 hours. The reaction mixture is then evaporated and the resulting residue is diluted with 50 ml of benzene and again evaporated to give 22.46 g (106%) of a clear dark brown liquid. This product is used as is in the subsequent reactions. The liquid is examined by infrared analysis and determined to be the above-named product.

reactant | 3-methyl-2-[p-(1,1,2,2-tetrafluoroethoxy)phenyl]butyric acid | 0.0680 mol, 20.00 g | CC(C(C(=O)O)C1=CC=C(C=C1)OC(C(F)F)(F)F)C | C13H14F4O3
reactant | thionyl chloride | 0.280 mol, 20.00 ml, 33.2 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | 3-Methyl-2-[p-(1,1,2,2-tetrafluoroethoxy)phenyl]butyryl chloride | 22.46 g, 106% | CC(C(C(=O)Cl)C1=CC=C(C=C1)OC(C(F)F)(F)F)C | C13H13ClF4O2
